US04988723
A mixture of trans-4-(3-cyano-2-methyl-1-isothioureido)-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile (0.48 g) and triethylamine (0.635 ml) in ethanol (5.0 ml) was stirred under reflux for 7 hours. The solvent was removed under reduced pressure. The residue was extracted with ethyl acetate (15 ml), and washed successively with 5% hydrochloric acid (15 ml) and saturated aqueous solution of sodium chloride (15 ml). The organic solution was dried over anhydrous magnesium sulfate and evaporated in vacuo. The residue was subjected to a column chromatography on silica gel (17 g), eluting with a mixture of methanol and chloroform (1:50 V/V). The fractions containing the object compound were combined and concentrated under reduced pressure. The residue was recrystallized from a mixture of ethanol 1.5 ml) and n-hexane (3 ml) to give trans-4-(3-cyano-2-ethyl-1-isoureido)-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile (0.22 g).

reactant | trans-4-(3-cyano-2-methyl-1-isothioureido)-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | 0.48 g | C(#N)N=C(N[C@H]1[C@@H](C(OC2=C1C=C(C=C2)C#N)(C)C)O)SC | C15H16N4O2S
reactant | triethylamine | 0.635 ml | C(C)N(CC)CC | C6H15N
reactant | ethanol | 5.0 ml | C(C)O | C2H6O
product | trans-4-(3-cyano-2-ethyl-1-isoureido)-3,4-dihydro-3-hydroxy-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | 0.22 g | C(#N)N=C(N[C@H]1[C@@H](C(OC2=C1C=C(C=C2)C#N)(C)C)O)OCC | C16H18N4O3
